US05280033
To a stirred solution of 3.8 g (0.0115 moles) of ethyl (Z)-5-[1-phenyl-2-(imidazol-1-yl)-ethylidene]aminoxypentanoate in 20 ml of ethanol, 35 ml of aqueous sodium hydroxyde 1N are added at room temperature. Stirring is continued for 2 hours, and ethanol is removed under vacuum without heating. The aqueous solution is acidified with acetic acid till pH 6 with external cooling. The precipitated product is filtered, washed with ether and filtered again, yielding 2.63 g (75%) of (Z)-5-[1-phenyl-2-(imidazol-1-yl)-ethylidene]aminoxypentanoic acid.

reactant | ethyl (Z)-5-[1-phenyl-2-(imidazol-1-yl)-ethylidene]aminoxypentanoate | 0.0115 moles, 3.8 g | C1(=CC=CC=C1)/C(/CN1C=NC=C1)=N/OCCCCC(=O)OCC | C18H23N3O3
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | sodium | 1N, 35 ml | [Na] | Na
product | (Z)-5-[1-phenyl-2-(imidazol-1-yl)-ethylidene]aminoxypentanoic acid | 2.63 g, 75% | C1(=CC=CC=C1)/C(/CN1C=NC=C1)=N/OCCCCC(=O)O | C16H19N3O3
